US04579585
4(1-Chloromethyl-ethyl)-nitrobenzene
A solution of 51.3 g (0.26 Mol) of 4(1-chloromethyl-ethenyl)-nitrobenzene and 10 g of tris(triphenylphosphine)-rhodium (I) chloride in 1000 ml of dry toluene is hydrogenated at ambient temperature and atmospheric pressure.

reactant | 4(1-chloromethyl-ethenyl)-nitrobenzene | 0.26 Mol, 51.3 g | ClCC(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8ClNO2
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(triphenylphosphine)-rhodium (I) chloride | 10 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4(1-Chloromethyl-ethyl)-nitrobenzene | ClCC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO2
